US09227901B2
N-(1-benzyl-7-bromo-3,4-dihydronaphthalen-2-yl)propionamide
In a three-necked flask equipped with a Dean-Stark apparatus, heating mantle and magnetic stirrer were charged 1-benzyl-7-bromo-3,4-dihydronaphthalen-2(1H)-one (23.50 g, 74.6 mmol), propionamide (13.62 g, 186 mmol) and 4-methylbenzenesulfonic acid (1.284 g, 7.46 mmol) followed by toluene (200 ml). The resulting solution was heated to reflux overnight and monitored by HPLC (<6% starting material remained). The reaction mixture was cooled to r.t. and a suspension formed. To the mixture was added IPA and the resulting suspension was cooled to 0° C., stirred at 0° C. for 2 hours and filtered. The filtrate was concentrated and the residue was suspended in IPA/EtOH (50 ml/50 ml) at 0° C. for 1 hr and filtered to give additional product as a white solid. HPLC analysis indicated that both crops have similar purity. The solids were combined and further dried to give 22.5 g product as white solid.

reactant | 1-benzyl-7-bromo-3,4-dihydronaphthalen-2(1H)-one | 74.6 mmol, 23.50 g | C(C1=CC=CC=C1)C1C(CCC2=CC=C(C=C12)Br)=O | C17H15BrO
reactant | propionamide | 186 mmol, 13.62 g | C(CC)(=O)N | C3H7NO
reactant | 4-methylbenzenesulfonic acid | 7.46 mmol, 1.284 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | IPA | CC(C)O | C3H8O
product | N-(1-benzyl-7-bromo-3,4-dihydronaphthalen-2-yl)propionamide | 22.5 g | C(C1=CC=CC=C1)C1=C(CCC2=CC=C(C=C12)Br)NC(CC)=O | C20H20BrNO
